resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.991077
R2 0 n2 1.012853
R3 0 n4 0.983876
R4 n1 n3 0.981683
R5 n1 n5 0.980098
R6 n2 n3 0.118981
R7 n2 n6 0.992174
R8 n3 n7 0.98651
R9 n4 n5 0.997591
R10 n4 n6 1.01946
R11 n5 n7 0.997645
R12 n6 n7 0.984186
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
